US04634551
N-Lauroyl-6-Aminoperoxycaproic Acid
A 250 mL beaker was charged with 35.0 g (0.112 mol) of N-lauroyl-6-aminocaproic acid and 70 mL of 98% methanesulfonic acid. The resulting solution was cooled in an ice bath and, with stirring, 21.2 g of 90% hydrogen peroxide (19.0 g, 0.559 mol of hydrogen peroxide) was added dropwise at a rate so that the temperature of the reaction mixture did not rise above 20° C. (required 15 min.). The resulting solution was stirred at room temperature for 3 hrs., cooled to -15° C., and poured over ice. Ethyl acetate (150 mL) was added, the mixture was warmed to 60° C. in a water bath, and the water layer separated. An additional 100 mL of water was added, the solution again warmed to 60° C. and the water layer separated and discarded. The ethyl acetate solution was cooled to -15° C., and the crystals which formed were removed by filtration and washed with 2×50 mL portions of -15° C. ethyl acetate. The yield of N-lauroyl-6-aminoperoxycaproic acid was 33.1 g; analysis for available oxygen (AvO) indicated 4.31% (theoretical yield=36.9 g having an AvO of 4.86%), mp 70°-75° C.

reactant | N-lauroyl-6-aminocaproic acid | 0.112 mol, 35.0 g | C(CCCCCCCCCCC)(=O)NCCCCCC(=O)O | C18H35NO3
reactant | methanesulfonic acid | 70 mL | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 0.559 mol, 21.2 g | OO | H2O2
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-Lauroyl-6-Aminoperoxycaproic Acid | C(CCCCCCCCCCC)(=O)NCCCCCC(=O)OO | C18H35NO4
